US07629494B2
Potassium carbonate (276 mg, 2.00 mmol) was added to a solution of 2-bromo-6-cyclopropylphenyl acetate (316 mg, purity: 80%, 1.00 mmol) in methanol (2 ml), and the mixture was stirred at room temperature for 4 hours. After water (15 ml) and 4M hydrochloric acid (15 ml) were added to the reaction mixture, the mixture was extracted with ethyl acetate. The organic layer was combined, washed with a saturated aqueous NaCl solution, followed by drying with anhydrous sodium sulfate. After the solid was removed by filtration, the filtrate was concentrated to obtain a pale brown oil. This oil was purified by preparative thin layer chromatography (manufactured by Merck Co., Ltd, 1.05744, use of two sheets, development by hexane:ethyl acetate=30:1) to obtain 118 mg of 2-bromo-6-cyclopropylphenol.

reactant | Potassium carbonate | 2.00 mmol, 276 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-6-cyclopropylphenyl acetate | 1.00 mmol, 316 mg | C(C)(=O)OC1=C(C=CC=C1C1CC1)Br | C11H11BrO2
reactant | water | 15 ml | O | H2O
reactant | hydrochloric acid | 4M, 15 ml | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 2-bromo-6-cyclopropylphenol | 118 mg | BrC1=C(C(=CC=C1)C1CC1)O | C9H9BrO
